US06329546B1
Synthesis of (E) 3-(2-amino-4,5-dimethoxyphenyl)-2-methyl-2-propenoic acid p-nitrophenyl ester
Into 20 ml of dichloromethane, 0.82 g (3.5 mmol) of (E) 3-(2-amino-4,5-dimethoxyphenyl)-2-methyl-2-propenoic acid and 0.97 g (7 mmol) of p-nitrophenol (manufactured by Wako Pure Chemical Industries, Ltd.) were dissolved, and 40 mg of dimethylaminopyridine (manufactured by Wako Pure Chemical Industries, Ltd.) were added thereto. While this mixture was stirred under cooling with ice, 0.81 g (4.2 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (EDC/HCl) (manufactured by Wako Pure Chemical Industries, Ltd.) were added thereto in portions. The mixture was returned to room temperature and then was stirred for 20 hours. After the end point of the reaction was verified by TLC, the reaction liquid was concentrated under a reduced pressure and then was dissolved in 100 ml of ethyl acetate. After this solution was washed and dried, the solvent was evaporated, whereby a syrupy crude product was obtained. This product was refined by a silica gel column chromatography (n-hexane/ethyl acetate=2/1), whereby 0.15 g of the aimed compound was obtained as a yellow crystal (yield: 12%).

reactant | 3-(2-amino-4,5-dimethoxyphenyl)-2-methyl-2-propenoic acid | NC1=C(C=C(C(=C1)OC)OC)C=C(C(=O)O)C | C12H15NO4
reactant | p-nitrophenol | 7 mmol, 0.97 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | dimethylaminopyridine | 40 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 4.2 mmol, 0.81 g | Cl.C(C)N=C=NCCCN(C)C
solvent | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(2-amino-4,5-dimethoxyphenyl)-2-methyl-2-propenoic acid p-nitrophenyl ester | 0.15 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(C(=CC1=C(C=C(C(=C1)OC)OC)N)C)=O | C18H18N2O6
